US08110687B2
To a solution of N-(3-tert-butylphenyl)-7-[(2-cyanopyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxamide (1.5 g, 3.5 mmol) in MeOH (20 mL) was added sodium methoxide (28 mg, 0.52 mmol). The solution was allowed to stir at rt for 3 days and then ammonium chloride (0.28 g, 5.3 mmol) was added. The reaction mixture was allowed to stir overnight and then concentrated to give 7-({2-[amino(imino)methyl]pyridin-4-yl}oxy)-N-(3-tert-butylphenyl)-1,2,3,4-tetrahydronaphthalene-2-carboxamide I-422 as a white solid, which was directly used into the next step. LCMS: (FA) ES+ 443.3.

reactant | N-(3-tert-butylphenyl)-7-[(2-cyanopyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 3.5 mmol, 1.5 g | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C#N | C27H27N3O2
reactant | sodium methoxide | 0.52 mmol, 28 mg | C[O-].[Na+]
reactant | ammonium chloride | 5.3 mmol, 0.28 g | [Cl-].[NH4+]
solvent | MeOH | 20 mL | CO | CH4O
product | 7-({2-[amino(imino)methyl]pyridin-4-yl}oxy)-N-(3-tert-butylphenyl)-1,2,3,4-tetrahydronaphthalene-2-carboxamide | NC(C1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)NC1=CC(=CC=C1)C(C)(C)C)=N | C27H30N4O2
